US05068325
4z) 2-Amino-6-(3-(4-benzyloxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 4-benzyloxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine in chloroform for one hour at 50° C. Yield: 13% of theory, Melting point: 135°-140° C. (ether).

reactant | 4-benzyloxy-cinnamyl chloride | C(C1=CC=CC=C1)OC1=CC=C(C=CCCl)C=C1 | C16H15ClO
reactant | 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(4-benzyloxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 13% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H25N3OS
